US08314087B2
A dry 5 mL, 1-neck round bottom flask was charged with 5-bromo-1-(2-(7-methoxyquinolin-4-yloxy)ethyl)pyridin-2(1H)-one (0.0476 g, 0.13 mmol), copper(I)iodide (0.0033 mL, 0.098 mmol), 1 mL toluene, N,N′-dimethylethylenediamine (0.017 g, 0.20 mmol), 2-pyrrolidone (0.048 mL, 0.63 mmol), cesium carbonate (0.12 g, 0.38 mmol), a stirbar and a reflux condenser. The solution was placed in a 120° C. bath for 6 h. The solution was cooled and retreated with the same amounts of CuI and diamine. The solution was heated to 120° C. for 16 h, and cooled. The solution was treated with 2 mL 50% concentrated NH4OH, and stirred/sonicated for 2 min. The biphasic solution was loaded onto an unbuffered Varian Chem elute (10 mL, PN 12198007). The column was extracted with CH2Cl2 (5×10 mL), and the extracts were concentrated in vacuo. The residue was taken up in 0.5 mL 20% THF in DCE, and filtered. The solid was washed with 20% THF in DCE (2×0.5 mL). The solid was heated into 2 mL EtOH and filtered hot. The solvent was removed in vacuo to afford 1-(2-(7-methoxyquinolin-4-yloxy)ethyl)-5-(2-oxopyrrolidin-1-yl)pyridin-2(1H)-one. 1H NMR (400 MHz, CDCl3) δ ppm 2.11-2.20 (m, 2H) 2.58 (t, J=8.12 Hz, 2H) 3.66 (t, J=6.94 Hz, 2H) 3.93 (s, 3H) 4.47-4.55 (m, 4H) 6.60 (dd, J=9.78, 0.59 Hz, 1H) 6.62 (d, J=5.38 Hz, 1H) 7.13 (dd, J=9.15, 2.59 Hz, 1H) 7.35 (d, J=2.54 Hz, 1H) 7.47 (dd, J=9.78, 2.93 Hz, 1H) 8.10 (d, J=9.10 Hz, 1H) 8.19 (dd, J=2.93, 0.59 Hz, 1H) 8.64 (d, J=5.28 Hz, 1H). 13C NMR (101 MHz, CDCl3) δ ppm 17.91 (s, 1 C) 31.78 (s, 1 C) 48.39 (s, 1 C) 49.78 (s, 1 C) 55.46 (s, 1 C) 65.70 (s, 1 C) 99.42 (s, 1 C) 107.20 (s, 1 C) 115.69 (s, 1 C) 118.46 (s, 1C) 120.67 (s, 2 C) 123.03 (s, 1 C) 131.19 (s, 1 C) 134.70 (s, 1 C) 151.21 (s, 1 C) 151.76 (s, 1 C) 160.57 (s, 1 C) 160.79 (s, 1 C) 160.99 (s, 1 C) 173.95 (s, 1 C). MS (ESI pos. ion) m/z (MH+): 380.2, calcd for C21H21N3O4+H+=380.2.

reactant | 5-bromo-1-(2-(7-methoxyquinolin-4-yloxy)ethyl)pyridin-2(1H)-one | 0.13 mmol, 0.0476 g | BrC=1C=CC(N(C1)CCOC1=CC=NC2=CC(=CC=C12)OC)=O | C17H15BrN2O3
reactant | N,N′-dimethylethylenediamine | 0.20 mmol, 0.017 g | CNCCNC | C4H12N2
reactant | 2-pyrrolidone | 0.63 mmol, 0.048 mL | N1C(CCC1)=O | C4H7NO
reactant | cesium carbonate | 0.38 mmol, 0.12 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | NH4OH | 2 mL | [NH4+].[OH-]
catalyst | copper(I)iodide | 0.098 mmol, 0.0033 mL | [Cu]I
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(2-(7-methoxyquinolin-4-yloxy)ethyl)-5-(2-oxopyrrolidin-1-yl)pyridin-2(1H)-one | COC1=CC=C2C(=CC=NC2=C1)OCCN1C(C=CC(=C1)N1C(CCC1)=O)=O | C21H21N3O4
